US03979385
127.2 parts of N-cyclohexylformamide and 81 parts of phosphorous acid were reacted with 137.3 parts of phosphorus trichloride at 70°C, and maintained for 5 hours at this temperature. The reaction product was dissolved in water, treated with acetone and the precipitate separated. A 25% yield of N-cyclohexyl-1-aminomethane-1,1-diphosphonic acid, based on PCl3, was obtained.

reactant | N-cyclohexylformamide | C1(CCCCC1)NC=O | C7H13NO
reactant | phosphorous acid | P(O)(O)O | H3O3P
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
reactant | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | N-cyclohexyl-1-aminomethane-1,1-diphosphonic acid | 25% yield | C1(CCCCC1)NC(P(O)(=O)O)P(O)(=O)O | C7H17NO6P2
